US06127378
27. (+/-)-cis-8,9-Diethoxy-6-(2-hydroxypyrid-5-yl)-1,2,3,4,4a,10b-hexahydrophenanthridine
850 mg of (+/-)-cis-8,9-diethoxy-6-(2-chloropyrid-5-yl)-1,2,3,4,4a,10b-hexahydrophenanthridine are suspended in 60 ml of toluene, treated with 1.0 g of potassium carbonate, 2.0 g of potassium hydroxide and 0.26 mg of tris[2-(2-methoxyethoxy)ethyl]amine and refluxed overnight. The suspension is filtered, the solvent is removed in vacuo, the residue is taken up in water, and the mixture is neutralized with 0.1 M hydrochloric acid and extracted with ethyl acetate. The organic phase is dried using sodium sulfate, the solvent is removed in vacuo, and the precipitate which is deposited in the course of this is filtered off with suction and dried. M.p.: 211-213° C., yield 12.3% of theory.

reactant | (+/-)-cis-8,9-diethoxy-6-(2-chloropyrid-5-yl)-1,2,3,4,4a,10b-hexahydrophenanthridine | 850 mg | C(C)OC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OCC)C=1C=CC(=NC1)Cl | C22H25ClN2O2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.26 mg | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (+/-)-cis-8,9-Diethoxy-6-(2-hydroxypyrid-5-yl)-1,2,3,4,4a,10b-hexahydrophenanthridine | yield 12.3% | C(C)OC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OCC)C=1C=CC(=NC1)O | C22H26N2O3
